US07691878B2
Preparation 12: 1-Cyclohexyl-1H-imidazole-4-carbaldehyde
To a solution of imidazolecarboxaldehyde (60 mg, 0.63 mmol) in DMF (0.4 mL) was added sodium carbonate (132 mg, 1.26 mmol). The mixture was then treated with a solution of cyclohexylbromide (152 mg, 0.94 mmol) in DMF (0.4 mL) dropwise and stirred at 90° C. for 72 h. The reaction mixture was partitioned between EtOAc (2 mL) and water (2 mL), and the aqueous layer was extracted with EtOAc. The organic layers were combined, dried with Na2SO4, filtered, and concentrated to yield to yield the title compound which was used without further purification (66 mg). (m/z): [M+H]+ calcd for C10H14N2O 179.11; found, 179.2.

reactant | imidazolecarboxaldehyde | 0.63 mmol, 60 mg | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium carbonate | 1.26 mmol, 132 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyclohexylbromide | 0.94 mmol, 152 mg | C1(CCCCC1)Br | C6H11Br
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 1-Cyclohexyl-1H-imidazole-4-carbaldehyde | C1(CCCCC1)N1C=NC(=C1)C=O | C10H14N2O
